US05032598
A solution of 1.86 g (0.0068 mol) of 6-nitro-2-(1-methyl-4-piperidyl)indan-1-one in 50 mL of absolute ethanol and 50 mL of tetrahydrofuran was hydrogenated at 10 psi over Raney nickel catalyst. After 2.5 hours, the catalyst was removed by filtration and the solvent was evaporated to give 1.76 g of crystalline 6-amino-2-(1-methyl-4-piperidyl)indan-1-one. To a solution of 1.04 g (0.00426 mol) of the 6-amino compound in 20 mL of methylene chloride and 3.4 g of pyridine was added 0.61 g (0.005 mol) of methanesulfonyl chloride. The mixture was stirred at room temperature for two hours, after which time it was poured onto water and made basic by the addition of a saturated sodium bicarbonate solution. The mixture was concentrated to dryness in vacuo, and the solid residue was extracted with two 50 mL portions of methylene chloride. Evaporation of the methylene chloride gave 1.56 g of 6-methanesulfonamido-2 -(1-methyl-4-piperidyl)indane-2-one as a colorless foam.

reactant | 6-nitro-2-(1-methyl-4-piperidyl)indan-1-one | 0.0068 mol, 1.86 g | [N+](=O)([O-])C1=CC=C2CC(C(C2=C1)=O)C1CCN(CC1)C | C15H18N2O3
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 6-amino-2-(1-methyl-4-piperidyl)indan-1-one | 1.76 g | NC1=CC=C2CC(C(C2=C1)=O)C1CCN(CC1)C | C15H20N2O
